US07618960B2
To a solution of (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (CAS No. 128811-48-3; 4.1 g) in tetrahydrofuran (100 mL), 3,4,5-trifluorophenylmagnesium bromide (0.35 M solution in diethyl ether; 55 mL) was added dropwise at −40° C. over 20 minutes, and the reaction solution was stirred at −40° C. for five hours. Saturated aqueous ammonium chloride and ethyl acetate were added to the solution. The reaction solution was heated to room temperature, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane->heptane:ethyl acetate=1:1) to obtain 4.8 g of ethyl (R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoate. A solution of 4 N hydrochloric acid in ethyl acetate (30 mL) was added to a solution of the resulting ethyl(R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoate in ethyl acetate (30 mL), and the solution was stirred for 15 hours. The reaction solution was concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. 10% palladium-carbon (100 mg) was added to a solution of the residue in ethyl acetate (50 mL), and the reaction solution was stirred in a hydrogen stream at 1 atm for six hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 2.91 g of the title compound. The property value of the compound is as follows.

reactant | (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | 3,4,5-trifluorophenylmagnesium bromide | 0.35 M, 55 mL | FC=1C=C(C=C(C1F)F)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl (R)-2-tert-butoxycarbonylamino-5-oxo-5-(3,4,5-trifluorophenyl)pentanoate | 4.8 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC)CCC(C1=CC(=C(C(=C1)F)F)F)=O | C18H22F3NO5
